* Opamp AC gain testbench 
.param fnoicor=0
.param sw_stat_mismatch=0
.param mim_corner_1p0ff=0
.param mc_c_cox_1p0ff=0
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice nfet_03v3_t
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064.ngspice pfet_03v3_t
.lib /foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.tech/ngspice/sm141064_mim.ngspice cap_mim_new 
.subckt mimcap_1p0fF 1 2 l=1 w=1
X1 1 2 cap_mim_1f0_m5m6_noshield c_length=1 c_width=w
.ends mimcap_1p0fF
.include /foss/designs/sscs-2026-zotnetic/designs/notebooks/opamp.spice
* Supply voltages 
VDD VDD GND DC 5
* Bias currents
VDIFFPAIR_BIAS DIFFPAIR_BIAS GND DC 1
VCS_BIAS CS_BIAS GND DC 1
* Input AC Signal 
VIN VP GND DC 0 AC 1
VN VN GND DC 0
* Connect Opamp
XDUT VDD GND DIFFPAIR_BIAS VP VN CS_BIAS VOUT OPAMP_TWO_STAGE 
* AC analysis 
.ac dec 100 1 10G
* Save output 
.save v(VOUT)
.end 
